2152-04-01 08:35:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 4**] Admission: Respiratory Failure
   24 Hour Events:
   - Family meeting, - cont. abx & O2 & morphine for pain/comfort. If
   deteriorates, will meet again to discuss CMO.
   - Periodic desats, which resolve with suctioning which he resists
 ULTRASOUND - At [**2152-3-31**] 02:16 PM
   Upper extremity vein u/s
   Patient unable to provide history: Unresponsive
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ethambutol
   Hives; Nausea/V
   Last dose of Antibiotics:
   Azithromycin - [**2152-3-31**] 06:00 PM
   Ceftriaxone - [**2152-3-31**] 07:52 PM
   Vancomycin - [**2152-3-31**] 08:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-3-31**] 08:10 AM
   Morphine Sulfate - [**2152-4-1**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-1**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 101 (90 - 118) bpm
   BP: 88/47(57) {88/44(44) - 117/97(101)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.5 kg (admission): 60 kg
             Total In:
                                                                  2,174 mL
                                                                    181 mL
   PO:
             TF:
   IVF:
                                                                  2,174 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,874 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   11.8 g/dL
   88 mg/dL
   0.8 mg/dL
   28 mEq/L
   5.2 mEq/L
   18 mg/dL
   102 mEq/L
   136 mEq/L
   36.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2152-3-31**]  02:29 AM
   WBC
   11.8
   Hct
   36.8
   Plt
   194
   Cr
   0.8
   Glucose
   88
   Other labs: Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR [**2152-3-31**]:
   The left subclavian line tip is in the right atrium, unchanged in
   position.
   Heart size is normal. Mediastinum is unremarkable. There are bibasilar
   consolidations right more than left, new compared to [**2151-9-15**] CT
   torso currently involves both of the lung bases, left more than right
   and might represent areas of multifocal infection versus apiration.
   There is dense opacity in the left perihilar area may represent the
   same infectious process
   although might be due to asymmetric edema. Emphysema in the upper lungs
   is severe, and better delineated on the CT torso. There is no
   appreciable
   pleural effusion although small amount of pleural fluid cannot be
   excluded.
   Assessment and Plan
   80 yo M with metastatic small cell lung Ca to brain and bone presents
   from home with increased dyspnea and fever x2-3 days with imaging
   concerning for infiltrate vs worsening malignant disease and
   hypercarbic/hypoxic respiratory failure.
   # Hypercarbic/Hypoxic Respiratory Failure
 CXR unremarkable. Periodic
   desats overnight.  Per family meeting yesterday, wanted to continue
   antibiotics, supplemental O2, NIPPV if necessary, but requested to have
   another discussion of goals of care if he deteriorated, moving toward
   CMO.
   - albuterol/ipratropium nebs as tolerated
   - ABX coverage with vanc/CTX/azithro
   - continue IV solumedrol
   - sputum cx, f/u blood cx
   # Fever/Leukocytosis -
   - continue CTX/Azithro, add vancomycin
   - trend fever curve, WBC
   # Mild Elevated Creatinine - Clinically dry on exam, improved since
   yesterday with hydration
   - avoid nephrotoxins
   - monitor UOP, bladder scan if low UOP
   # Small Cell lung CA - with Brain and [**Last Name (un) **] mets
   - provide with stress dose steroids in place of decadron
   - continue dilantin, pain regimen
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2152-3-31**] 02:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Son [**Name (NI) 174**] H:[**Telephone/Fax (1) 11833**], C: [**Telephone/Fax (1) 11834**]  Daughter
   [**Name (NI) 2130**] [**Telephone/Fax (1) 11835**]
   [**Name2 (NI) 156**] status: DNR / DNI
   Disposition: ICU
   ------ Protected Section ------
   Pt seen and evaluated on rounds with team. See above note for details;
   In addition:
   80 yr man with metastatic small cell with hypercarbic resp failure
   Family meeting yesterday
 continue oxygen, morphine, antibiotics
   Moving towards CMO
   Exam:
   Agitated, Uncomfortable
   Combative when attempting to exam
   Plan: Rediscuss CMO with family
             Continuing current therapy for time being
             Morphine 2-4mg q [**1-29**] as needed for discomfort.
             Add scopolamine patch for secretions
             DNR/DNI
   Time Spent 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2152-4-1**] 11:32 ------
   Resident Physical Exam:
   General: Agitated, writhing, in respiratory distress
   HEENT: Sclera anicteric, MMD, oropharynx clear
   Lungs: coarse expiratory wheezing throughout on face mask
   CV: Regular rate and rhythm, HS distant
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   multiple ecchymoses
   ------ Protected Section Addendum Entered By:[**Name (NI) 11858**] [**Name8 (MD) 807**], MD
   on:[**2152-4-1**] 11:36 ------

2152-04-02 06:26:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
   - Family meeting held regarding goals of care. Family decided to place
   patient on morphine gtt, but wished to consider antibiotic tx for
   another 24 hrs to see if any improvement.
   -Scopolamine patch started
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ethambutol
   Hives; Nausea/V
   Last dose of Antibiotics:
   Azithromycin - [**2152-3-31**] 06:00 PM
   Ceftriaxone - [**2152-4-1**] 08:00 PM
   Vancomycin - [**2152-4-1**] 08:40 PM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2152-4-1**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-2**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (95 - 103) bpm
   BP: 85/43(54) {80/40(51) - 111/68(78)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.5 kg (admission): 60 kg
             Total In:
                                                                    810 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                    810 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    810 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Somnolent, no evidence of respiratory distress on face mask,
   but not responsive to voice or touch
   HEENT: Sclera anicteric, MMD, oropharynx clear
   Lungs: coarse expiratory wheezing throughout
   CV: Regular rate and rhythm, no audible murmurs
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   guarding
   Ext: warm, well perfused, 2+ pulses, no cyanosis or edema
   Labs / Radiology
   194 K/uL
   11.8 g/dL
   88 mg/dL
   0.8 mg/dL
   28 mEq/L
   5.2 mEq/L
   18 mg/dL
   102 mEq/L
   136 mEq/L
   36.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2152-3-31**]  02:29 AM
   WBC
   11.8
   Hct
   36.8
   Plt
   194
   Cr
   0.8
   Glucose
   88
   Other labs: Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   80 yo M with metastatic small cell lung caner to brain and bone
   presents from home with increased dyspnea and fever x2-3 days with
   imaging concerning for infiltrate vs worsening malignant disease and
   hypercarbic/hypoxic respiratory failure.
   # Hypercarbic/Hypoxic Respiratory Failure:  Patient DNR/DNI & unable to
   tolerate BiPAP. Currently, unresponsive to voice & touch on Morphine
   gtt. Per family meeting yesterday, family wanted to continue supportive
   care (antibiotics, supplemental O2) in addition to Morphine gtt for 24
   hours to assess for improvement, but this AM, patient continues to
   deteriorate.
   - Family meeting this AM to discuss formal transition to CMO.
   - Until meeting, continue Albuterol/Ipratropium nebs q6H,
   broad-spectrum antibiotics (Vanc/CTX/Azithro), IV Solumedrol 60mg q8H
   - F/U OSH cx
   # Fever/Leukocytosis
 Afebrile over the past 24 hours. No AM labs
   today. No [**Hospital1 5**] cultures pending.
   - Continue CTX/Azithro/Vancomycin
   - F/U any OSH cx
   # Acute Renal Failure - Clinically dry on exam, no AM labs today, but
   Cr from [**4-1**], 0.8. Incontinent x 1 over past 6 hours.
   - Avoid nephrotoxins
   - Monitor UOP
   # Small Cell lung CA - Brain and bone metastases
   - Solumedrol 60mg IV q8H
   - Continue Dilantin, Morphine gtt
   ICU Care
   Nutrition: NPO
   Glycemic Control:  None
   Lines:
   Indwelling Port (PortaCath) - [**2152-3-31**] 02:25 AM
   Prophylaxis:
   DVT: none
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   In addition:
   80 yr man with metastatic small cell with hypercarbic resp failure
   Family meeting yesterday
 continue oxygen, morphine, antibiotics for
   another 24 hrs
   Started on Scopolamine patch for secretions
   Systolic pressures down to 80
   Moving towards CMO
   Exam:
   Much more comfortable today
   Coarse expiratory wheezes
   Plan:  Continuing current therapy for time being, family close to CMO
             Morphine 2-4mg q [**1-29**] as needed for discomfort.
             Scopolamine patch added or secretions
             DNR/DNI
   Time Spent 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2152-4-2**] 11:21 ------